US07834049B2
2-Chloro-1,6-naphthyridine
1,6-Naphthyridine-2-one (1.0 g, J. Org. Chem. 4744 (1990)) was dissolved in phosphorous oxychloride (19 ml), followed by heating under reflux at 120° C. for 2 hours. After cooling, the solvent was evaporated, and the residue was basified with water and potassium carbonate. Then, the mixture was extracted with ethyl acetate, and the extract was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, to give the title compound (0.658 g, 58.45%) as orange crystals.

reactant | 1,6-Naphthyridine-2-one | 1.0 g | N1C(C=CC2=CN=CC=C12)=O | C8H6N2O
reactant | phosphorous oxychloride | 19 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-1,6-naphthyridine | 0.658 g, 58.45% | ClC1=NC2=CC=NC=C2C=C1 | C8H5ClN2
